US08039639B2
Step A: Preparation of 2-(4-amino-3-methylphenoxy)-5-fluorobenzonitrile 65:
In a 3 L, 4-necked flask that had been evacuated and back-filled with argon, 2,5-difluorobenzonitrile (295.3 ml, 812.0 mmol) and 4-amino-3-methylphenol (100.0 g, 812.0 mmol) were dissolved in dry DMSO (2.75 M) with rapid stirring at room temperature. The solution was evacuated/backfilled with argon (3×). Potassium carbonate (185.2 g, 1340 mmol) (−325 mesh) was added. The reaction mixture was evacuated/backfilled with argon (3×) and warmed to 80° C. (internal probe) for 16 hours. TLC indicated complete conversion. The reaction mixture was cooled to room temperature and poured slowly into 2 L of ice water with rapid stirring. The residue in the round bottom flask was taken up in water repeatedly and poured into the ice water until a total volume of 3 L was achieved and all solids were in the ice water. The suspension was stirred rapidly for 2 hours as it came to room temperature. The brown solids were collected by filtration, washed with water (3 L), air dried, dried with latex dam, and dried under high vacuum at 40° C. for 44 hours to provide 194 g (99%) of the desired product as a tan solid. MS (APCI+) m/z 243 (M+1) was detected. 1H NMR (400 MHz, CDCl3) δ 7.38 (m, 1H), 7.18 (m, 1H), 6.65-6.85 (m, 5H), 3.60 (br, 2H), 2.17 (s, 3H).

reactant | 2,5-difluorobenzonitrile | 812.0 mmol, 295.3 ml | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
reactant | 4-amino-3-methylphenol | 812.0 mmol, 100.0 g | NC1=C(C=C(C=C1)O)C | C7H9NO
reactant | Potassium carbonate | 1340 mmol, 185.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2.75 M | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(4-amino-3-methylphenoxy)-5-fluorobenzonitrile | 194 g, 99% | NC1=C(C=C(OC2=C(C#N)C=C(C=C2)F)C=C1)C | C14H11FN2O
